US08080571B2
(a) 2-Benzoimidazol-1-yl-1-(3-bromophenyl)ethanone
To a solution of 2-bromo-1-(3-bromophenyl)ethanone (120 mg, 0.432 mmol) in dioxane (2 mL) was added benzoimidazole (102.0 mg, 0.864 mmol) and the reaction mixture was stirred for 1 h at 80° C. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography using MeOH:CH2Cl2 (4:96) as eluent to give the sub-title compound in 53% yield (71.8 mg, 0.227 mmol).

reactant | 2-bromo-1-(3-bromophenyl)ethanone | 0.432 mmol, 120 mg | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
reactant | benzoimidazole | 0.864 mmol, 102.0 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-Benzoimidazol-1-yl-1-(3-bromophenyl)ethanone | 53% yield | N1(C=NC2=C1C=CC=C2)CC(=O)C2=CC(=CC=C2)Br | C15H11BrN2O
